US07253286B2
4-[1-(Phenylcarbamoyl)-1H-indol-5-yloxy]-6,7-dimethoxyquinoline
4-(1H-Indol-5-yloxy)-6,7-dimethoxyquinoline (25 mg, 0.0780 mmol) and phenyl isocyanate (0.013 ml, 0.117 mmol) were used for reaction in the same manner as Example 330, the obtained crystals were suspended in diethyl ether:ethanol=10:1, and then the crystals were filtered out, washed with diethyl ether and dried by aspiration to obtain the title compound (11 mg, 0.0250 mmol, 32.09%) as colorless crystals.

reactant | 4-(1H-Indol-5-yloxy)-6,7-dimethoxyquinoline | 0.0780 mmol, 25 mg | N1C=CC2=CC(=CC=C12)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C19H16N2O3
reactant | phenyl isocyanate | 0.117 mmol, 0.013 ml | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-[1-(Phenylcarbamoyl)-1H-indol-5-yloxy]-6,7-dimethoxyquinoline | 0.0250 mmol, 11 mg, 32.09% | C1(=CC=CC=C1)NC(=O)N1C=CC2=CC(=CC=C12)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C26H21N3O4
